US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-{[2-(2-ethoxyethoxy)ethyl]thio}purine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (470 mg, 1.7 mmol) was suspended in dimethylformamide (100 ml). To the suspension were added potassium carbonate (350 mg, 2.5 mmol) and 1-ethoxy-2-(2-bromoethoxy)ethane (505 mg, 2.6 mmol) in order. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (1% methanol/chloroform) to give the subject compound (147 mg, yield 22%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 1.7 mmol, 470 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 2.5 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethoxy-2-(2-bromoethoxy)ethane | 2.6 mmol, 505 mg | C(C)OCCOCCBr | C6H13BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-{[2-(2-ethoxyethoxy)ethyl]thio}purine | 147 mg, yield 22% | NC1=C2N=C(N(C2=NC(=N1)SCCOCCOCC)CC1=CC=CC=C1)O | C18H23N5O3S
